* C:\Users\Usuario\source\repos\TP3-Electro\TP-Final\LTSpice\Descarga\Circuito.asc
R1 C 0 18
R2 N001 0 12
C A C 22µ
L A N001 13m
.tran 6m
.ic V(a) = 5
.ic V(L) = 2.4
.backanno
.end
