* C:\Users\Usuario\source\repos\TP3-Electro\TP-Final\LTSpice\Placa de Altium\Altium.asc
XLM833 N003 N004 A 0 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N001 N002 {mc(15,tolc)}
R2 N003 N001 {mc(15,told)}
R3 Vout N004 {mc(10k,tole)}
R4 0 N004 {mc(10k,tolf)}
C1 N003 0 {mc(10n,tola)}
C2 Vout N001 {mc(10n,tolb)}
Vin N002 0 AC 5
V1 A 0 -15
.lib "C:\Users\Usuario\source\repos\TP3-Electro\TP-Final\LTSpice\Placa de Altium\LM833\LM833.LIB"
.param tola=0.1
.param tolb=0.1
.step param run 1 100 1
.param tolc=0.05
.param told=0.05
.param tole=0.05
.param tolf=0.05
.ac dec 1000 1 10k
.lib UniversalOpamps2.sub
.backanno
.end
